US09402914B2
A 20-L 4-neck round-bottom flask was flushed with N2, then charged a solution of tert-butyl 2-(1,3-dihydroxypropan-2-yloxy)ethylcarbamate (418 g, 1.8 mol, 1.0 eq) in dichloromethane (9000 mL, 21.5 v) and N,N-diisopropylethylamine (574 g, 4.4 mol, 2.5 eq). This is followed by dropwise addition of methanesulfonyl chloride (509 g, 4.4 mol, 2.5 eq) with stirring at −6-0° C. over 1 hour. The resulting mixture was stirred for 4 h at −6˜4° C., then washed with water (3×4000 mL). The organic layer was separated, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/EtOAc (1:1) to give 740 g (101.0%) of 2-(2-(tert-butoxycarbonylamino)ethoxy)propane-1,3-diyl dimethanesulfonate as a yellow oil.

reactant | tert-butyl 2-(1,3-dihydroxypropan-2-yloxy)ethylcarbamate | 1.8 mol, 418 g, 1.0 eq | OCC(CO)OCCNC(OC(C)(C)C)=O | C10H21NO5
reactant | N,N-diisopropylethylamine | 4.4 mol, 574 g, 2.5 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 4.4 mol, 509 g, 2.5 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 9000 mL | ClCCl | CH2Cl2
product | 2-(2-(tert-butoxycarbonylamino)ethoxy)propane-1,3-diyl dimethanesulfonate | 740 g, 101.0% | CS(=O)(=O)OCC(COS(=O)(=O)C)OCCNC(=O)OC(C)(C)C | C12H25NO9S2
